US08669266B2
(i) 4-((S)-2-Benzyloxycarbonylamino-5-tert-butoxycarbonyl-pentanoyl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 2 g of (S)-2-Benzyloxycarbonylamino-hexanedioic acid 6-tert-butyl ester dicyclohexyl-ammonium salt, 1.7 g of NEM and 1.2 g of TOTU in 6 ml of DMF, 0.62 g of Piperazine-1-carboxylic acid ethyl ester was added at RT and stirred for 16 h. The reaction mixture was diluted saturated aqueous sodium hydrogen carbonate solution and extracted with 150 ml of ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was purified by chromatography on silica gel eluting with a gradient of n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 2.2 g.

reactant | (S)-2-Benzyloxycarbonylamino-hexanedioic acid 6-tert-butyl ester dicyclohexyl-ammonium salt | 2 g | C1(CCCCC1)[NH2+]C1CCCCC1.C(C)(C)(C)OC(CCC[C@@H](C(=O)[O-])NC(=O)OCC1=CC=CC=C1)=O
reactant | TOTU | 1.2 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | Piperazine-1-carboxylic acid ethyl ester | 0.62 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 4-((S)-2-Benzyloxycarbonylamino-5-tert-butoxycarbonyl-pentanoyl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C25H37N3O7
